Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ with acute appendicitis s/p uncomplicated lap appendectomy 
 
Major Surgical or Invasive Procedure:
Laparascopic appendectomy and repair of umbilical hernia

 
History of Present Illness:
___ presents with acute onset abdominal pain. The pain
started yesterday (___) morning and was ___. He 
went
about his usual daily activities with persistent, dull pain. He
denies nausea, emesis, fevers or chills. Overnight, the pain
acutely worsened in his RLQ and did not improve. He had a bowel
movement this AM with no relief. He presented to Urgent Care for
evaluation, where CT was notable for dilated appendix concerning
for appendicitis. 
 
Past Medical History:
DMI, HTN, HLD 
 
Social History:
___
Family History:
 N/C 
 
Physical Exam:
Physical Exam:
Vitals: T98.8 HR99 BP117/76 RR18 97% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, appropriately distended, surgical dressings on
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
On Admission: ___ 
WBC-9.2 RBC-4.79 Hgb-15.1 Hct-43.7 Plt ___
Glucose-83 UreaN-12 Creat-1.0 Na-142 K-4.3 Cl-102 HCO3-27 
ALT-32 AST-23 AlkPhos-74 TotBili-0.___ presents with acute onset abdominal pain. The pain
started yesterday (___) morning and was ___. He 
went
about his usual daily activities with persistent, dull pain. He
denies nausea, emesis, fevers or chills. Overnight, the pain
acutely worsened in his RLQ and did not improve. He had a bowel
movement this AM with no relief. He presented to Urgent Care for
evaluation, where CT was notable for dilated appendix concerning
for appendicitis. 

Pt had an uncomplicated laparoscopic appendectomy with repair of 
an umbilical hernia with no apparent complications. Pt recovered 
well in the PACU after extubation and some delirium and high 
flow oxygen initially. Pt weaned off oxygen and transferred to 
floor the next day. Pain well controlled and able to tolerate 
regular diet and ambulate. 

 
Medications on Admission:
Insulin Pump
Trazodone 50 mg 1 tab by mouth daily
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
2.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate Duration: 3 Days 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth twice a day 
as needed Disp #*14 Tablet Refills:*0
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours as needed 
Disp #*12 Tablet Refills:*0 
3.  Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)

Basal Rates:
  Midnight - 4:  .88 Units/Hr
  4 - 7:  1.4 Units/Hr
  7 - 12:  .9 Units/Hr
  ___ - ___:  .9 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:7
  Lunch = 1:7
  Dinner = 1:7
  Snacks = 1:7
High Bolus:
  Correction Factor = 1:25
  Correct To ___ mg/dL

 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
No lifting more than 10 lbs for 6 weeks
Ambulate regularly 
Do not drive while under pain medications other than Tylenol
No baths for first 6 weeks; showers okay
Can take off dressings 2 days out from surgery
Avoid fatty/heavy food for first few days
 
Followup Instructions:
___